US07550598B2
(Z)-2-methoxy-N-(4-(2-(5-oxo-3-propyl-1H-pyrazol-4(5H)-ylidene)-1,2-dihydroquinolin-4-ylthio)phenyl)acetamide
The title compound was synthesized using (Z)-4-(4-(4-aminophenylthio)quinolin-2(1H)-ylidene)-3-propyl-1H-pyrazol-5(4H)-one and methoxy acetyl chloride in THF according to the procedure described in the synthesis of Example 26. 1H NMR (400 MHz, DMSO-d6) δ ppm 0.69 (t, J=7.33 Hz, 3H) 1.26-1.36 (m, J=7.38, 7.38, 7.38, 7.38, 7.38 Hz, 2H) 2.23 (t, J=7.33 Hz, 2H) 3.40 (s, 3H) 4.06 (s, 2H) 6.76 (s, 1H) 7.64 (t, J=7.71 Hz, 1H) 7.70 (d, J=8.34 Hz, 2H) 7.87 (t, J=7.71 Hz, 1H) 7.91-7.96 (m, 1H) 7.98 (d, J=8.59 Hz, 2H) 8.15 (d, J=8.34 Hz, 1H) 10.18 (s, 1H); ESI-MS: m/z calc'd for C24H24N4O3S 448.54. found 449.2 (M+H)+.

reactant | (Z)-4-(4-(4-aminophenylthio)quinolin-2(1H)-ylidene)-3-propyl-1H-pyrazol-5(4H)-one | NC1=CC=C(C=C1)SC1=C/C(/NC2=CC=CC=C12)=C/1\C(=NNC1=O)CCC | C21H20N4OS
reactant | methoxy acetyl chloride | COCC(=O)Cl | C3H5ClO2
solvent | THF | C1CCOC1 | C4H8O
product | (Z)-2-methoxy-N-(4-(2-(5-oxo-3-propyl-1H-pyrazol-4(5H)-ylidene)-1,2-dihydroquinolin-4-ylthio)phenyl)acetamide | COCC(=O)NC1=CC=C(C=C1)SC1=C/C(/NC2=CC=CC=C12)=C/1\C(=NNC1=O)CCC | C24H24N4O3S
